US07157488B2
N-(2-(5-Benzyloxy-1H-indol-3-yl)-ethyl)-3-phenoxybenzylamine
Combine 5-benzyloxy tryptamine (1.23 g, 4.6 mmol), 3-phenoxybenzaldehyde (97%, 1.09 g, 5.53 mmol) and molecular sieves 4 A (1.0 g) and stir in methanol (15 mL) for 4 h. Filter the molecular sieves and wash several times with MeOH. To this MeOH solution, add portionwise NaBH4 (174 mg, 4.60 mmol), stir the resulting mixture at room temperature for 1 h. Remove MeOH under vacuum, dilute the residue with CH2CL2/water, extract with CH2Cl2, combine organic layers, dry over Na2SO4 and concentrate the solvent in vacuo. Purification by silica gel chromatography(CH2Cl2/MeOH) to give the free base. Combine the free base with oxalic acid to form the salt: (300 MHz, DMSO-d6) 2.95–3.15 (m, 4H), 3.93 (s, 2H), 4.10 (br, 1H), 5.05 (s, 2H), 6.85–7.46 (m, 18H), 10.67 (br, 1H); ms (ELECTROSPRAY) m/e: 449.2 (M+1).

reactant | 5-benzyloxy tryptamine | 4.6 mmol, 1.23 g | C(C1=CC=CC=C1)OC1=CC=C2NC=C(CCN)C2=C1 | C17H18N2O
reactant | 3-phenoxybenzaldehyde | 5.53 mmol, 1.09 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | NaBH4 | 4.60 mmol, 174 mg | [BH4-].[Na+]
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | methanol | 15 mL | CO | CH4O
solvent | water | O | H2O
product | N-(2-(5-Benzyloxy-1H-indol-3-yl)-ethyl)-3-phenoxybenzylamine | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)CCNCC1=CC(=CC=C1)OC1=CC=CC=C1 | C30H28N2O2
